US05135838
Synthesis of 2-(trifluoromethyl)-6-nitrobenzyl bromide,
A 500 mL round bottomed flask was charged with 250 mL of carbon tetrachloride 15.90 g. of 2-(trifluoromethyl)-6-nitrotoluene, 27.60 g. of N-bromosuccinimide, and 11.8 g of benzoyl peroxide. This mixture was brought under reflux and stirred at this temperature for 14 h. The mixture was cooled, filtered and 9.94 g of N-bromosuccinimide together with 4.2 g of benzoyl peroxide was added to the filtrate. This mixture was brought under reflux for 14 h. The mixture was cooled, filtered and the filtrate was stripped of solvent. The crude product was chromatographed on a SiO2 column to give 19.57 g (88.9% yield) of pure product.

reactant | 2-(trifluoromethyl)-6-nitrotoluene | FC(C1=C(C(=CC=C1)[N+](=O)[O-])C)(F)F | C8H6F3NO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 11.8 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 250 mL, 15.90 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(trifluoromethyl)-6-nitrobenzyl bromide | 19.57 g, 88.9% yield | FC(C1=C(CBr)C(=CC=C1)[N+](=O)[O-])(F)F | C8H5BrF3NO2
